US04395577
Preparation of N-(2-methyl-5-nitrobenzyl)acetamide
To a solution of p-nitrotoluene (0.85 g; 0.05 mol) and para-formaldehyde (1.6 g; 0.05 mol) in concentrated sulfuric acid is added acetamide (8.85 g; 0.15 mol) in increments. This solution is stirred at room temperature for 18 hours. The reaction mixture is then poured onto ice. A precipitate is obtainined which is removed by filtration. This solid material is then mixed with butyl acetate, heated, and filtered while hot to remove insolubles. After cooling, 7.8 g (i.e., 75% yield) of product crystallizes out of solution. The product has the following characteristics: melting point of 141° to 143° C.; i.r. 3275, 1640 and 1660 cm-1 (sh); mass. spec. m/e 208.

reactant | p-nitrotoluene | 0.05 mol, 0.85 g | [N+](=O)([O-])C1=CC=C(C=C1)C | C7H7NO2
reactant | para-formaldehyde | 0.05 mol, 1.6 g | C=O | CH2O
reactant | acetamide | 0.15 mol, 8.85 g | C(C)(=O)N | C2H5NO
solvent | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | N-(2-methyl-5-nitrobenzyl)acetamide | 75% yield | CC1=C(CNC(C)=O)C=C(C=C1)[N+](=O)[O-] | C10H12N2O3
